US08604055B2
Step (i): Synthesis of 1-(3,5-bis-trifluoromethyl-benzyl)-1-[6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl]-urea
To a stirred solution of [6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl-(3,5-bis-trifluoromethyl-benzyl)-cyanamide (0.50 g, 0.880 mmol) in ethanol (15 mL) were added H2O2 (1.5 mL) and a saturated aqueous solution of KOH (0.70 g, 11.97 mmol) at 0° C. This mixture was slowly heated to reflux. After 2 h the reaction mixture was cooled to RT, water (10 mL) was added, and the product was extracted with ethyl acetate (3×40 mL). The combined organic layers were dried over sodium sulfate and evaporated to yield the crude residue. The crude was purified by column chromatography over 100-200 mesh silica gel using 10% ethyl acetate and petroleum ether to yield the title compound as a sticky oil (yield: 60%).

reactant | 6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl-(3,5-bis-trifluoromethyl-benzyl)-cyanamide | 0.880 mmol, 0.50 g | C1(CCCC1)CN(C1=C(C=C2C(=N1)N(N=C2C)C)CN(C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)CC | C27H30F6N6
reactant | H2O2 | 1.5 mL | OO | H2O2
reactant | KOH | 11.97 mmol, 0.70 g | [OH-].[K+]
reactant | water | 10 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(3,5-bis-trifluoromethyl-benzyl)-1-[6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl]-urea | yield: 60% | FC(C=1C=C(CN(C(=O)N)CC=2C=C3C(=NC2N(CC)CC2CCCC2)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C27H32F6N6O
